US07799814B2
Step II: 2-isopropyl-5-oxo-5,6,7,8-tetrahydroimidazo[1,5-c]pyrimidin-2-ium iodide
To a suspension of 7,8-dihydroimidazo[1,5-c]pyrimidin-5(6H)-one, obtained in step I as describe above (28.18 g; 205.5 mmol; 1 eq), in DMF (140.9 ml), is added 2-iodopropane (61.5 ml; 616.4 mmol; 3 eq). The reaction is stirred at RT, until a red suspension is obtained. The reaction mixture is concentrated and acetonitrile (200 ml) is added. The resulting precipitate is filtered, washed with acetonitrile (2×50 ml) and dried under vacuum, affording the title compound that is used in the next step without further purification (45.95 g, 73%).

reactant | 7,8-dihydroimidazo[1,5-c]pyrimidin-5(6H)-one | C=1N=CN2C(NCCC21)=O | C6H7N3O
reactant | 2-iodopropane | 616.4 mmol, 61.5 ml, 3 eq | IC(C)C | C3H7I
solvent | DMF | 140.9 ml | CN(C)C=O | C3H7NO
product | 2-isopropyl-5-oxo-5,6,7,8-tetrahydroimidazo[1,5-c]pyrimidin-2-ium iodide | [I-].C(C)(C)[N+]1=CN2C(NCCC2=C1)=O | InChI=1S/C9H13N3O.HI/c1-7(2)11-5-8-3-4-10-9(13)12(8)6-11;/h5-7H,3-4H2,1-2H3;1H
